* **************************************
*
* ngSPICE models for PLS experiments
*
* Author: Jan Belohoubek, 01/2019
* jan.belohoubek@fit.cvut.cz
*
* https://users.fit.cvut.cz/~belohja4/
*
*
* **************************************


* **************************************
* --- Common globals ---
* **************************************

.param SUPP = 1.2V
.csparam SUPP = {SUPP}

VVDD VDDR 0 SUPP
R_VDD VDDR VDD 0.001
VVSS VSS 0 0V

.global VDD VSS
.temp 25

* --- Technology selection
.param TECHNOLOGY_TSMC180nm = 0
.param TECHNOLOGY_PTM90nm = 1

.param TECHNOLOGY = 'TECHNOLOGY_TSMC180nm'

.param LENS_5X = 0
.param LENS_20X = 1
.param LENS_100X = 2

.param LENS = 'LENS_5X'

* --- PN area junction (use [um]!)
.if (TECHNOLOGY == TECHNOLOGY_TSMC180nm)
  .param PsubNwellJunctionS_INVX1 = '3 * 5.7'
  .csparam PsubNwellJunctionS_INVX1 = {PsubNwellJunctionS_INVX1}
  
  .param PsubNwellJunctionS_NAND2X1 = '3 * 5.7'
  .csparam PsubNwellJunctionS_NAND2X1 = {PsubNwellJunctionS_NAND2X1}
  
  .param PsubNwellJunctionS_NAND3X1 = '4.8 * 5.7'
  .csparam PsubNwellJunctionS_NAND3X1 = {PsubNwellJunctionS_NAND3X1}
  
  .param PsubNwellJunctionS_NOR2X1 = '4 * 5.7'
  .csparam PsubNwellJunctionS_NOR2X1 = {PsubNwellJunctionS_NOR2X1}
  
  .param PsubNwellJunctionS_NOR3X1 = '7.5 * 5.7'
  .csparam PsubNwellJunctionS_NOR3X1 = {PsubNwellJunctionS_NOR3X1}
.endif

* --- NMOS parameters
* W = width
* L = length
* PD = drain perimeter
* AD = drain area
* AS = source area
* PS = source perimeter

.if (TECHNOLOGY == TECHNOLOGY_TSMC180nm)
  .param NMOSw  = '2.0u'
  .param NMOSl  = '0.2u'
  .param NMOSad = '1.2p'
  .param NMOSpd = '5.2u'
  .param NMOSas = '2p'
  .param NMOSps = '10u'
.endif

* **************************************
* --- PLS Params ---
* **************************************

* --- laserPower in [mW] ---
.param pLaser = 50
.csparam pLaser = {pLaser}

* following parameters were found in:
* https://www.emse.fr/~dutertre/doc_recherche/J_2013_2_talk_ESREF13_paper35_Sarafianos_Dutertre.pdf
* --- equation (1) params N+/Psub ---
.param p = '4/1000000000'
.param q = '-5/10000000'
.param r = '9/1000000'
.param s = '4/1000000'

* --- equation (1) params P+/Nwell ---
.param p2 = '9/100000'
.param q2 = '2/10000'
.param r2 = '-5/1000000'
.param s2 = '1.2/1000'

* --- equation (1) params Nwell/Psub ---
.param p3 = '6/100000000000'
.param q3 = '9/1000000000'
.param r3 = '1/10000000'
.param s3 = '6/100000000'

* equation (2) N+/Psub ---
.param a = 'p * pLaser * pLaser + q * pLaser + r'
.csparam a = {a}
* equation (3)
.param b = 'pLaser * s'
.csparam b = {b}

* equation (2) P+/Nwell ---
.param a2 = 'p2 * pLaser/1000 * pLaser/1000 + q2 * pLaser/1000 + r2'
.csparam a2 = {a2}
* equation (3)
.param b2 = 'pLaser/1000 * s2'
.csparam b2 = {b2}

* equation (2) Nwell/Psub ---
.param a3 = '0.007'
.csparam a3 = {a3}
* equation (3)
.param b3 = '0.002'
.csparam b3 = {b3}

* --- equation (3) params: spatial dependence ---
.if (LENS == LENS_5X)
  .param beta = '0.4'
  .param gamma = '0.6'
  .param c1 = '2.5'
  .param c2 = '55'
.endif

.if (LENS == LENS_20X)
  .param beta = '0.6'
  .param gamma = '0.4'
  .param c1 = '23.8'
  .param c2 = '654'
.endif


.if (LENS == LENS_100X)
  .param beta = '0.7'
  .param gamma = '0.3'
  .param c1 = '1000'
  .param c2 = '15000'
.endif

* .param distance = '1'
* .param alpha = 'beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)'



* **************************************
* --- Device models ---
* **************************************

* --- Ideal SW model ---
* roff rersistivity remains default
.model idealSw sw vt='SUPP/2' vh=0.1 ron=1


* **************************************
* --- Subckts ---
* **************************************

.subckt SUBCKT_Iph_nplus_psub nplus psub laser_trig transConductance = 1 constCurrent = 0 distance = 0 PNArea = NplusPsubJunctionS
  Vvconst vconst 0 1.0V

  * model was fitted for 10um PN junction -> the PNArea paramter must be /10
  * model was fitted for laser width 3um -> the pulse width paramter must be /3

  G1 nplus psub ctrl psub 'transConductance * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/10'
  G2 nplus psub ctrl2 VSS 'constCurrent * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/10'
  
  S1 nplus ctrl laser_trig VSS idealSw OFF
  S2 ctrl psub VDD laser_trig idealSw ON
  
  S3 vconst ctrl2 laser_trig VSS idealSw OFF
  S4 ctrl2 VSS VDD laser_trig idealSw ON
.ends

.subckt SUBCKT_Iph_Psub_Nwell psub nwell laser_trig transConductance = 1 constCurrent = 0 distance = 0 PNArea = 1

  Vvconst vconst 0 1.0V

  * model was fitted for 12um x 12um PN junction -> the PNArea paramter must be /144

  G1 psub nwell ctrl nwell 'transConductance * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/144'
  G2 psub nwell VSS ctrl2 'constCurrent * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/144'
  
  S1 psub ctrl laser_trig VSS idealSw OFF
  S2 ctrl nwell VDD laser_trig idealSw ON
  
  S3 vconst ctrl2 laser_trig VSS idealSw OFF
  S4 ctrl2 VSS VDD laser_trig idealSw ON
.ends

.subckt SUBCKT_Iph_Pplus_Nwell pplus nwell laser_trig transConductance = 1 constCurrent = 0 distance = 0 PNArea = 1
  Vvconst vconst 0 1.0V

  * model was fitted for 10um PN junction -> the PNArea paramter must be /10
  * model was fitted for laser width 3um -> the pulse width paramter must be /3

  G1 pplus nwell ctrl nwell 'transConductance * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/10'
  G2 pplus nwell ctrl2 VSS 'constCurrent * (beta*exp(-1*distance*distance/c1)+gamma*exp(-1*distance*distance/c2)) * PNArea/10'
  
  S1 pplus ctrl laser_trig VSS idealSw OFF
  S2 ctrl nwell VDD laser_trig idealSw ON
  
  S3 vconst ctrl2 laser_trig VSS idealSw OFF
  S4 ctrl2 VSS VDD laser_trig idealSw ON
.ends


.subckt SUBCKT_SD drain source psubOut
  * following values are approximation from published graphs 
  * just read from bad graph by using my eyes ... :-(
  Vvopen vopen 0 0.8V
  * Rctrl psub ctrl 0.001

  G2 psub source ctrl vopen 0.025
  
  * connect ctrl when above 0.8V
  .model tmpSw sw vt=0.0V vh=0 ron=1
  
  S1 psub ctrl psub vopen tmpSw OFF
  S2 vopen ctrl vopen psub tmpSw ON
  
  * I'm not sure here ...
  R1 drain psub2 10k
  S3 psub2 psub psub vopen tmpSw OFF
  
  Rmeas psub psubOut 0.001
  
.ends

*
* Note: set param commonDrain/commonSource to 2 if drain/source is common for two transistors in series
*
.subckt SUBCKT_NMOS drain gate source psub trig beamDistance = 0 placeDiodes = 1 ch_w = NMOSw ch_l = NMOSl mos_ad = NMOSad mos_pd = NMOSpd mos_as = NMOSas mos_ps = NMOSps

  * NMOS model
  * based on https://tel.archives-ouvertes.fr/tel-00958998/document; page 56
  * my French == NULL ...  :-( This may be completelly buggy!

.if (TECHNOLOGY == TECHNOLOGY_TSMC180nm)
  M1 drain gate source psub TSMC180nmN w = ch_w l = ch_l ad = mos_ad pd = mos_pd as = mos_as ps = mos_ps
.endif

.if (TECHNOLOGY == TECHNOLOGY_PTM90nm)
  M1 drain gate source psub PTM90nmNMOS w = ch_w l = ch_l ad = mos_ad pd = mos_pd as = mos_as ps = mos_ps
.endif

  * Xsd drain source psubIn SUBCKT_SD
  
.if (placeDiodes > 0)
  R2 psubIn interRC 0.001
  C1 interRC psub 1fF
  R3 psubIn psub 10k
  
  .if (mos_ad > 0p)
    XcsrcD drain psubIn trig SUBCKT_Iph_nplus_psub transConductance = a constCurrent = b distance = beamDistance PNArea = 'mos_ad * 10^12'
  .endif
  
  .if (mos_as > 0p)
    XcsrcS psubIn source trig SUBCKT_Iph_nplus_psub transConductance = a constCurrent = b distance = beamDistance PNArea = 'mos_as * 10^12'
  .endif
.endif

.ends

*
* Note: set param commonDrain/commonSource to 2 if drain/source is common for two transistors in series
*
.subckt SUBCKT_PMOS drain gate source nwell psub trig beamDistance = 0 placeDiodes = 1 ch_w = NMOSw ch_l = NMOSl mos_ad = NMOSad mos_pd = NMOSpd mos_as = NMOSas mos_ps = NMOSps

  * PMOS model -- simplified
  * check for bugs!
  
.if (TECHNOLOGY == TECHNOLOGY_TSMC180nm)
  M1 drain gate source nwell TSMC180nmP w = ch_w l = ch_l ad = mos_ad pd = mos_pd as = mos_as ps = mos_ps
.endif

.if (TECHNOLOGY == TECHNOLOGY_PTM90nm)
  M1 drain gate source nwell PTM90nmPMOS w = ch_w l = ch_l ad = mos_ad pd = mos_pd as = mos_as ps = mos_ps
.endif
  
  
.if (placeDiodes > 0)
  .if (mos_ad > 0p)
    XDiodeD pplusD nwell trig SUBCKT_Iph_Pplus_Nwell transConductance = a2 constCurrent = b2 distance = beamDistance PNArea = 'mos_ad * 10^12'
  .endif
  
  .if (mos_as > 0p)
    XDiodeS pplusS nwell trig SUBCKT_Iph_Pplus_Nwell transConductance = a2 constCurrent = b2 distance = beamDistance PNArea = 'mos_as * 10^12'
  .endif
  
  R1 pplusD drain 0.001
  R2 pplusS source 0.001
  
.endif
  
  *Rnp nwell psub 100000

  *XDiodePN psub nwell trig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistance PNArea = 'PsubNwellJunctionS'
  
.ends

*
* 2-input NAND Gate
*
.subckt NAND2X1 Y VSS A B VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos1 Y A VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=1.2p mos_pd=5.2u mos_as=2p mos_ps=10u
Xpmos2 VDD B Y VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

*XDiodePN VSS VDD LaserTrig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistanceTop PNArea = 'PsubNwellJunctionS_NAND2X1'

Xnmos1 MIDDLE A VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=0.6p mos_pd=4.6u mos_as=1p mos_ps=5u
Xnmos2 Y B MIDDLE VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=1p mos_pd=5u mos_as=0p mos_ps=0u

C0 MIDDLE Y 0.01fF
C1 VSS Y 0.09fF
C2 Y B 0.10fF
C3 VSS A 0.05fF
C4 Y A 0.08fF
C5 Y VDD 0.57fF
C6 B A 0.22fF
C7 B VDD 0.27fF
C8 A VDD 0.20fF
C9 VSS VSS 0.17fF
C10 Y VSS 0.11fF
C11 B VSS 0.19fF
C12 A VSS 0.25fF
C13 VDD VSS 1.73fF
.ends

*
* 3-input NAND Gate
*
.subckt NAND3X1 Y VSS A B C VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos1 Y A VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=2.2p mos_pd=10.2u mos_as=2.52p mos_ps=13.4u
Xpmos2 VDD B Y VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u
Xpmos3 Y C VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

*XDiodePN VSS VDD LaserTrig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistanceTop PNArea = 'PsubNwellJunctionS_NAND3X1'

Xnmos1 MIDDLE A VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=3u ch_ l=0.2u mos_ad=0.9p mos_pd=6.6u mos_as=1.82p mos_ps=10.2u
Xnmos2 MIDDLE2 B MIDDLE VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=3u lch_=0.2u mos_ad=0.9p mos_pd=6.6u mos_as=0p mos_ps=0u
Xnmos3 Y C MIDDLE2 VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=3u ch_l=0.2u mos_ad=1.5p mos_pd=7u mos_as=0p mos_ps=0u

C0 A B 0.31fF
C1 vdd A 0.27fF
C2 Y C 0.16fF
C3 Y B 0.02fF
C4 C B 0.10fF
C5 Y vdd 0.96fF
C6 vdd C 0.27fF
C7 vdd B 0.22fF
C8 vdd VSS 2.29fF
C9 Y VSS 0.09fF
C10 C VSS 0.15fF
C11 B VSS 0.17fF
C12 A VSS 0.11fF

.ends

*
* 2-input NOR Gate
*
.subckt NOR2X1 Y VSS A B VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos1 MIDDLE A VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=1.2p mos_pd=8.6u mos_as=2.32p mos_ps=12.2u
Xpmos2 Y B MIDDLE VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=2p mos_pd=9u mos_as=0p mos_ps=0u

*XDiodePN VSS VDD LaserTrig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistanceTop PNArea = 'PsubNwellJunctionS_NOR2X1'

Xnmos1 Y A VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=0.6p mos_pd=3.2u mos_as=1.32p mos_ps=9.2u
Xnmos2 VSS B Y VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

C0 Y B 0.12fF
C1 A B 0.18fF
C2 Y MIDDLE 0.01fF
C3 Y A 0.07fF
C4 B vdd 0.12fF
C5 Y vdd 0.43fF
C6 A vdd 0.12fF
C7 vdd VSS 1.91fF
C8 Y VSS 0.11fF
C9 B VSS 0.28fF
C10 A VSS 0.30fF

.ends


*
* 3-input NOR Gate
*
.subckt NOR3X1 Y VSS A B C VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos1 VDD A MIDDLE VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=2.44p mos_pd=13.6u mos_as=4.78p mos_ps=21.2u
Xpmos2 MIDDLE A VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

Xpmos3 MIDDLE2 B MIDDLE VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=4.8p  mos_pd=21.2u mos_as=0p    mos_ps=0u
Xpmos4 MIDDLE B MIDDLE2 VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p    mos_ps=0u

Xpmos5 Y C MIDDLE2 VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=1.8p mos_pd=7.2u mos_as=0p    mos_ps=0u
Xpmos6 MIDDLE2 C Y VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=3u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

*XDiodePN VSS VDD LaserTrig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistanceTop PNArea = 'PsubNwellJunctionS_NOR3X1'

Xnmos1 Y A VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=1.1p mos_pd=6.2u mos_as=1.74p mos_ps=12.6u
Xnmos2 VSS B Y VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u
Xnmos3 Y C VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

C0 MIDDLE2 MIDDLE 0.94fF
C1 B vdd 0.22fF
C2 A vdd 0.24fF
C3 C B 0.16fF
C4 MIDDLE vdd 1.16fF
C5 MIDDLE2 vdd 0.45fF
C6 B Y 0.02fF
C7 MIDDLE2 C 0.02fF
C8 Y A 0.01fF
C9 MIDDLE2 Y 0.76fF
C10 C vdd 0.30fF
C11 Y vdd 0.51fF
C12 B A 0.23fF
C13 MIDDLE B 0.03fF
C14 C Y 0.12fF
C15 MIDDLE A 0.03fF
C16 MIDDLE2 B 0.02fF
C17 vdd VSS 3.59fF
C18 Y VSS 0.18fF
C19 C VSS 0.29fF
C20 MIDDLE2 VSS 0.00fF
C21 MIDDLE VSS 0.00fF
C22 B VSS 0.29fF
C23 A VSS 0.29fF

.ends

*
* INV Gate
*
.subckt INVX1 Y VSS A VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos Y A VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=2u ch_l=0.2u mos_ad=1p mos_pd=5u mos_as=1.16p mos_ps=6.6u

*XDiodePN VSS VDD LaserTrig SUBCKT_Iph_Psub_Nwell transConductance = a3 constCurrent = b3 distance = beamDistanceTop PNArea = 'PsubNwellJunctionS_INVX1'

Xnmos Y A VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=1u ch_l=0.2u mos_ad=0.5p mos_pd=3u mos_as=0.66p mos_ps=4.6u

C0 A Y 0.08fF
C1 A vdd 0.26fF
C2 Y vdd 0.55fF
C3 vdd VSS 1.64fF
C4 Y VSS 0.07fF
C5 A VSS 0.23fF

.ends


*
* 2-input XOR Gate
*
.subckt XOR2X1 Y VSS A B VDD beamDistanceTop = 0 beamDistanceBot = 0

Xpmos0 VDD A A_NEG vdd VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=6.24p mos_pd=25.2u mos_as=2p mos_ps=9u

Xpmos1 2 B_NEG vdd vdd VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=1.2p mos_pd=8.6u mos_as=0p mos_ps=0u

Xpmos2 Y A 2 vdd VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=4p mos_pd=10u mos_as=0p mos_ps=0u

Xpmos3 4 A_NEG Y vdd VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=1.2p mos_pd=8.6u mos_as=0p mos_ps=0u

Xpmos4 vdd B 4 vdd VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

Xpmos5 B_NEG B VDD VDD VSS LaserTrig SUBCKT_PMOS beamDistance = beamDistanceTop ch_w=4u ch_l=0.2u mos_ad=2p mos_pd=9u mos_as=0p mos_ps=0u


Xnmos0 VSS A A_NEG VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=3.44p mos_pd=17.2u mos_as=1p mos_ps=5u

Xnmos1 5 B_NEG VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=0.6p mos_pd=4.6u mos_as=0p mos_ps=0u

Xnmos2 Y A_NEG 5 VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=2p mos_pd=6u mos_as=0p mos_ps=0u

Xnmos3 6 A Y VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=0.6p mos_pd=4.6u mos_as=0p mos_ps=0u

Xnmos4 VSS B 6 VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=0p mos_pd=0u mos_as=0p mos_ps=0u

Xnmos5 B_NEG B VSS VSS LaserTrig SUBCKT_NMOS beamDistance = beamDistanceBot ch_w=2u ch_l=0.2u mos_ad=1p mos_pd=5u mos_as=0p mos_ps=0u

C0 B vdd 0.16fF
C1 B A_NEG 0.15fF
C2 B B_NEG 0.14fF
C3 B A 0.04fF
C4 Y vdd 0.26fF
C5 A_NEG vdd 0.94fF
C6 B_NEG vdd 0.91fF
C7 A vdd 0.13fF
C8 Y A_NEG 0.22fF
C9 Y B_NEG 0.05fF
C10 A_NEG B_NEG 0.68fF
C11 Y A 0.09fF
C12 A_NEG A 0.32fF
C13 B_NEG A 0.39fF
C14 vdd VSS 3.41fF
C15 Y VSS 0.07fF
C16 B VSS 0.29fF
C17 A_NEG VSS 0.34fF
C18 B_NEG VSS 0.30fF
C19 A VSS 0.49fF

.ends
